US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(3,4-dimethoxyphenyl)carboxamide [62]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (56 mg) and commercially available 3,4-dimethoxybenzoic acid (60 mg) were dissolved in N,N-dimethylformamide (2 ml), 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride (81 mg) was added, and the admixture was stirred at room temperature for 22 hours. The reaction mixture was partitioned between water and ethyl acetate, and the ethyl acetate layer was washed with brine and then dried with anhydrous sodium sulfate. The solvent was removed by reduced-pressure distillation, and the resulting residue was purified by column chromatography on silica gel eluting chloroform/acetone (10/1) to obtain 7 mg of the title compound (yield: 8%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 56 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 3,4-dimethoxybenzoic acid | 60 mg | COC=1C=C(C(=O)O)C=CC1OC | C9H10O4
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride | 81 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(3,4-dimethoxyphenyl)carboxamide | 7 mg, yield: 8% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1=CC(=C(C=C1)OC)OC | C26H24N2O6
